US04442298
Methyl 2-cyano-3-phenylbutyrate
A mixture of methyl cyanoacetate (198 g, 2.0 moles), acetophenone (240 g, 2.0 moles), ammonium acetate (30.8 g, 0.4 moles) and acetic acid (96 g, 1.60 moles) in toluene was refluxed with a Dean and Stark trap until water separation ceased (about 4 hours). The resulting Knoevenagel adduct was cooled and stirred under hydrogen (60 psig) with 5% palladium on carbon (8 g) for 2 days. The solution was then depressurized, degassed, filtered and evaporated. The liquid residue was distilled and the fraction with bp 110°-140° C. (about 0.03 mm) collected as mixed stereoisomers of methyl 2-cyano-3-phenylbutyrate as identified by the nmr spectrum.

reactant | methyl cyanoacetate | 2.0 moles, 198 g | C(#N)CC(=O)OC | C4H5NO2
reactant | acetophenone | 2.0 moles, 240 g | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | ammonium acetate | 0.4 moles, 30.8 g | C(C)(=O)[O-].[NH4+]
reactant | acetic acid | 1.60 moles, 96 g | C(C)(=O)O | C2H4O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | palladium on carbon | 8 g | [Pd] | Pd
solvent | water | O | H2O
product | Methyl 2-cyano-3-phenylbutyrate | C(#N)C(C(=O)OC)C(C)C1=CC=CC=C1 | C12H13NO2
